US04851413
To a solution of 1.1 g (3.09 mmol) of 1-(3,6-dimethoxy-2,4,5-trimethylphenyl)-1-(3-pyridyl)heptane in 20 ml of acetonitrile-water (1:1), the solution of 4.5 g (8.2 mmol) of cerium ammonium nitrate (CAN) in 15 ml of acetonitrile-water was added dropwise with stirring at 0° C. and stirred for 30 minutes after the completion of addition. The reaction product was isolated by a routine method, to give 635 mg (63%) of 1-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-1-(3-pyridyl)heptane. The physical data are shown in Table 2-1.

reactant | 1-(3,6-dimethoxy-2,4,5-trimethylphenyl)-1-(3-pyridyl)heptane | 3.09 mmol, 1.1 g | COC=1C(=C(C(=C(C1C)C)OC)C(CCCCCC)C=1C=NC=CC1)C | C23H33NO2
reactant | cerium ammonium nitrate | 8.2 mmol, 4.5 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
solvent | acetonitrile water | 20 ml | C(C)#N.O
solvent | acetonitrile water | 15 ml | C(C)#N.O
product | 1-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-1-(3-pyridyl)heptane | 635 mg, 63% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCCC)C=1C=NC=CC1 | C21H27NO2
